US07087612B2
2-[7-(3-Fluoro-benzyloxy)-4-oxo-4H-quinazolin-3-yl]-acetamide
7-(3-Fluoro-benzyloxy)-3H-quinazolin-4-one: Sodium (1.8 g, 78.6 mmol) was added portionwise to 3-fluorobenzyl alcohol and the resulting mixture heated at 80–90° C. for 4 h under Argon. The resulting suspension was cooled to rt and 7-fluoro-3H-quinazolin-4-one (3.2 g, 19.5 mmol) was added and the resulting mixture heated at 130–140° C. for 14 h. The solid formed was then dissolved with water (400 mL) and the mixture acidified to pH 3–4 with HCl (4 N). The resulting precipitate was then filtered off, washed with water (100 mL) and diethylether (100 mL). Recrystallisation from tetrahydrofuran: ethylacetate (1:1) afforded the title compound (3.2 g, 61%) as white crystals. MS: m/e=271.3 (M+H+).

reactant | 7-(3-Fluoro-benzyloxy)-3H-quinazolin-4-one | FC=1C=C(COC2=CC=C3C(NC=NC3=C2)=O)C=CC1 | C15H11FN2O2
reactant | Sodium | 78.6 mmol, 1.8 g | [Na] | Na
reactant | 3-fluorobenzyl alcohol | FC=1C=C(CO)C=CC1 | C7H7FO
reactant | 7-fluoro-3H-quinazolin-4-one | 19.5 mmol, 3.2 g | FC1=CC=C2C(NC=NC2=C1)=O | C8H5FN2O
reactant | HCl | 4 N | Cl | ClH
solvent | water | 400 mL | O | H2O
product | 2-[7-(3-Fluoro-benzyloxy)-4-oxo-4H-quinazolin-3-yl]-acetamide | 3.2 g, 61% | FC=1C=C(COC2=CC=C3C(N(C=NC3=C2)CC(=O)N)=O)C=CC1 | C17H14FN3O3
